US07273878B2
To 10 ml of N,N-dimethylformamide were dissolved 1.00 g (5.0 mmol) of 4,4-difluoro-3-methyl-3-butenyl methanesulfonate and 1.30 g (5.5 mmol) of 2-benzyl-4-methylpyrimidine-5-carboxylic acid, followed by the addition of 0.50 g (6.0 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over an hydrous magnesium sulfate, the addition of “Florisil” and filtering. The solution was concentrated under reduced pressure to obtain 1.30 g (yield: 78%) of 4,4-difluoro-3-methyl-3-butenyl 2-benzyl-4-methylpyrimidine-5-carboxylate.

reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 4,4-difluoro-3-methyl-3-butenyl methanesulfonate | 5.0 mmol, 1.00 g | CS(=O)(=O)OCCC(=C(F)F)C | C6H10F2O3S
reactant | 2-benzyl-4-methylpyrimidine-5-carboxylic acid | 5.5 mmol, 1.30 g | C(C1=CC=CC=C1)C1=NC=C(C(=N1)C)C(=O)O | C13H12N2O2
reactant | sodium hydrogencarbonate | 6.0 mmol, 0.50 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl 2-benzyl-4-methylpyrimidine-5-carboxylate | 1.30 g, yield: 78% | C(C1=CC=CC=C1)C1=NC=C(C(=N1)C)C(=O)OCCC(=C(F)F)C | C18H18F2N2O2
